US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-(2-hydroxyethyl)-N-(1-methylethyl)biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 2-bromo-N-(2-hydroxyethyl)-N-isopropylbenzene-sulfonamide. MS (ESI): mass calcd. for C21H23FN4O3S, 430.15; m/z found, 431.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.56 (d, J=1.4, 2H), 8.10 (dd, J=8.0, 1.4, 1H), 7.65-7.57 (m, 1H), 7.58-7.49 (m, 1H), 7.49-7.38 (m, 1H), 7.37-7.28 (m, 3H), 5.22 (s, 2H), 3.72 (p, J=6.7, 1H), 3.65-3.50 (m, 2H), 2.99 (t, J=6.0, 2H), 2.19 (d, J=7.0, 1H), 1.04 (d, J=6.7, 6H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(2-hydroxyethyl)-N-isopropylbenzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N(C(C)C)CCO | C11H16BrNO3S
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-(2-hydroxyethyl)-N-(1-methylethyl)biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C(C)C)CCO)F | C21H23FN4O3S
